US08686150B2
To mixture of 6-bromo-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester (21.0 g), 4-benzyloxy-2-fluorophenylboronic acid (16.8 g) and potassium carbonate (8.7 g) in DME/water (v/v=2/1, 300 mL) was added at r.t. under Ar-atmosphere palladium(0) bis(tri-tert-butylphosphine) (0.99 g) and the mixture was stirred at 85° C. for 90 min. To the mixture water was added and extracted with ethyl acetate. The organic phase was washed several times with water, finally with brine. Methanol was added and the precipitate formed was filtered off, dried in air to give 6-(4-Benzyloxy-2-fluoro-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester (23.0 g, 82% yield). This material was dissolved in isopropanol (100 mL), and 1N sodium hydroxide solution (140 mL) was added. The solution was stirred overnight, filtered, then the filtrate was adjusted to pH2-3 and the precipitate formed was dried in air giving 6-(4-benzyloxy-2-fluoro-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (18 g, 83%).

reactant | 6-bromo-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester | 21.0 g | C(C)OC(=O)C=1C2=C(N=C(C1)Br)N(N=C2C)C2OCCCC2 | C15H18BrN3O3
reactant | 4-benzyloxy-2-fluorophenylboronic acid | 16.8 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)B(O)O)F | C13H12BFO3
reactant | potassium carbonate | 8.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DME water | 300 mL | COCCOC.O
product | 6-(4-Benzyloxy-2-fluoro-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester | 23.0 g, 82% yield | C(C)OC(=O)C=1C2=C(N=C(C1)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F)N(N=C2C)C2OCCCC2 | C28H28FN3O4
